US04075221
In the manner given in Example 1, a solution of 8-nitro-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide, N,N,N',N'-tetrapropyldiaminomethane and acetyl chloride (in 0.1 molar excess compared to the N,N,N'N'-tetrapropyldiaminomethane) are reacted together to give 8-nitro-1-[2-(dipropylamino)ethyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-nitro-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=NC=CC=C3)C1 | C16H12N6O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-nitro-1-[2-(dipropylamino)ethyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN(CCC)CCC)C3=NC=CC=C3)C1 | C23H27N7O2
